US03998834
A mixture of 60 parts of methyl 4-[N-(3-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate and 400 parts of ethanol is hydrogenated at normal pressure and at room temperature with 10 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol, previously saturated with gaseous ammonia, as eluent. The pure fractions are collected and the eluent is evaporated, yielding methyl 4-[N-(3-methoxyphenyl)amino]-4-piperidinecarboxylate as an oily residue.

reactant | methyl 4-[N-(3-methoxyphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate | COC=1C=C(C=CC1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC | C21H26N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | methyl 4-[N-(3-methoxyphenyl)amino]-4-piperidinecarboxylate | COC=1C=C(C=CC1)NC1(CCNCC1)C(=O)OC | C14H20N2O3
